US06451810B1
Using the general method of Example 9 Part B, 4-chloro-3-nitroquinoline hydrochloride (10 g, 41 mnmol) was reacted with N-(6-aminohexyl)benzamide to provide 12.85 g of N1-{6-[(3-nitroquinolin-4-yl)amino]hexyl}benzamide as a yellow crystalline solid.

reactant | 4-chloro-3-nitroquinoline hydrochloride | 10 g | Cl.ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-]
reactant | N-(6-aminohexyl)benzamide | NCCCCCCNC(C1=CC=CC=C1)=O | C13H20N2O
product | N1-{6-[(3-nitroquinolin-4-yl)amino]hexyl}benzamide | 12.85 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCCNC(C1=CC=CC=C1)=O | C22H24N4O3
